US06949569B2
Synthesis of 7-chloro-4-[N-(2-aminoethyl)amino]-quinoline 1
A mixture of 4,7-dichloroquinoline (2.0 g, 10 mmol) and 1,2-diaminoethane (2.7 g, 45 mmol) is heated at 85° C. for 5 hours with magnetic stirring. After adding 1N soda (15 ml), the solid obtained is extracted with ethyl acetate (100 ml) at 50° C. The organic phase is washed with distilled water and then using a saturated NaCl solution and then again with distilled water and finally is dried on sodium sulphate. The solvent is evaporated and the product obtained is vacuum-dried (1.3 g, 58%).

reactant | 4,7-dichloroquinoline | 10 mmol, 2.0 g | ClC1=CC=NC2=CC(=CC=C12)Cl | C9H5Cl2N
reactant | 1,2-diaminoethane | 45 mmol, 2.7 g | NCCN | C2H8N2
product | 7-chloro-4-[N-(2-aminoethyl)amino]-quinoline | ClC1=CC=C2C(=CC=NC2=C1)NCCN | C11H12ClN3
